US09192603B2
Step 3: N-(5-((2-Chlorobenzyl)thio)-4-(trifluoromethyl)thiazol-2-yl)picolinamide
In a 5 mL microwave vial was charged with N-(5-bromo-4-(trifluoromethyl)thiazol-2-yl)picolinamide (0.06 g, 0.2 mmol), diisopropylethylamine (59 μL, 0.34 mmol), Pd2(dba)3 (0.0048 g, 0.0085 mmol), Xantphos (0.0099 g, 0.017 mmol), 1,4-dioxane (0.6 mL) and 2-chlorophenylmethanethiol (22 μL, 0.17 mmol). The reaction mixture was purged with argon for 5 min; the vial was capped and heated at 100° C. for 15 h. the reaction mixture was cooled to room temperature, diluted with ethyl acetate (5 mL), filtered, washing with ethyl acetate (10 mL) and the filtrate was concentrated under vacuum. The residue was purified by column chromatography eluting with ethyl acetate/hexanes 0 to 30% to give the product.

reactant | N-(5-bromo-4-(trifluoromethyl)thiazol-2-yl)picolinamide | 0.2 mmol, 0.06 g | BrC1=C(N=C(S1)NC(C1=NC=CC=C1)=O)C(F)(F)F | C10H5BrF3N3OS
reactant | diisopropylethylamine | 0.34 mmol, 59 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Xantphos | 0.017 mmol, 0.0099 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2-chlorophenylmethanethiol | 0.17 mmol, 22 μL | ClC1=C(C=CC=C1)CS | C7H7ClS
catalyst | Pd2(dba)3 | 0.0085 mmol, 0.0048 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
product | N-(5-((2-Chlorobenzyl)thio)-4-(trifluoromethyl)thiazol-2-yl)picolinamide | ClC1=C(CSC2=C(N=C(S2)NC(C2=NC=CC=C2)=O)C(F)(F)F)C=CC=C1 | C17H11ClF3N3OS2
